US04830660
More specifically, (1) according to Reaction scheme 8, an aminoimidazole is converted into a diazonium salt by using sodium nitrite or the like in hydrochloric acid, hydrobromic acid or the like and then sulfur dioxide is reacted with the resulting diazonium salt in the presence of a catalyst which is usually used for diazonium decomposition such as a copper salt or the like, to afford a corresponding imidazolesulfonyl chloride. With the resulting compound was reacted an aqueous ammonia to give the desired pyrazolesulfonamide (V).

reactant | aminoimidazole | NC=1NC=CN1 | C3H5N3
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrobromic acid | Br | BrH
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrochloric acid | Cl | ClH
catalyst | copper | [Cu] | Cu
product | imidazolesulfonyl chloride | N1C(=NC=C1)S(=O)(=O)Cl | C3H3ClN2O2S
